US07244843B2
Step C. Preparation of N-[2-(2,2-dimethoxy-ethylamino)-ethyl]-2-hydroxy-benzamide
To a solution of N-(2-aminoethyl)-2-hydroxybenzamide (332 mg, 1.85 mmol), dimethoxyacetaldehyde (0.475 mL, 1.85 mmol) in CH2Cl2 (10 mL) was added sodium triacetoxyboro hydrid (588 mg, 2.80 mmol). The resulting mixture was stirred overnight, then diluted with EtOAc (50 mL), washed with 10 mL of water and then brine, dried over MgSO4, and conc in vacuo to yield 441 mg (97%) of the product as a colorless oil. MS (ESI) 269 (M+H).

reactant | N-(2-aminoethyl)-2-hydroxybenzamide | 1.85 mmol, 332 mg | NCCNC(C1=C(C=CC=C1)O)=O | C9H12N2O2
reactant | dimethoxyacetaldehyde | 1.85 mmol, 0.475 mL | COC(C=O)OC | C4H8O3
reactant | sodium triacetoxyboro hydrid | 2.80 mmol, 588 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-[2-(2,2-dimethoxy-ethylamino)-ethyl]-2-hydroxy-benzamide | 441 mg, 97% | COC(CNCCNC(C1=C(C=CC=C1)O)=O)OC | C13H20N2O4
